US04845107
Preparation of N-(2-Methoxy-5-pyridyl)-difluoroacetamide
Difluoracetic acid was added to a mixture of carbonyl diimidazole (8.4 g, 0.052 mol) and methylene chloride (100 ml) under a nitrogen atmosphere. Gas was evolved and a new solid formed in the reaction. After stirring at room temperature for 30 minutes, 5-amino-2-methoxypyridine (5.7 ml, 0.052 mol) was added over a two-minute period. The reacion was slightly exothermic and was stirred further for another 30 minutes when it was washed with water (100 ml), 5% aqueous acetic acid (2×50 ml), 5% sodium bicarbonate (25 ml); dried over anhydrous magnesium sulfate; filtered; and evaporated in vacuo to give an oil. The oil was extracted with ether and the ether extract on dilution with pentane gave 3.7 g of crude product. This was extracted with ether and diluted with pentane to give 2.0 g of the title compound, m.p. 75°-78° C. The title product was identified by IR, NMR and MS analysis.

reactant | Difluoracetic acid | FC(C(=O)O)F | C2H2F2O2
reactant | carbonyl diimidazole | 0.052 mol, 8.4 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 5-amino-2-methoxypyridine | 0.052 mol, 5.7 ml | NC=1C=CC(=NC1)OC | C6H8N2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Methoxy-5-pyridyl)-difluoroacetamide | 2.0 g | COC1=NC=C(C=C1)NC(C(F)F)=O | C8H8F2N2O2
